US07820704B2
3-[(8H-Indeno[1,2-d]thiazol-2-yl)-thiophen-2-ylmethyl-amino]-propionic acid tert-butyl ester was prepared (35 mg) following general procedure B using 2-bromo-indan-1-one (22 mg, 0.1 mmol), and 3-(1-thiophen-2-ylmethyl-thioureido)-propionic acid tert-butyl ester (30 mg, 0.1 mmol). LCMS m/z: 414 (M+1)+.

reactant | 2-bromo-indan-1-one | 0.1 mmol, 22 mg | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 3-(1-thiophen-2-ylmethyl-thioureido)-propionic acid tert-butyl ester | 0.1 mmol, 30 mg | C(C)(C)(C)OC(CCN(C(=S)N)CC=1SC=CC1)=O | C13H20N2O2S2
product | 3-[(8H-Indeno[1,2-d]thiazol-2-yl)-thiophen-2-ylmethyl-amino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN(CC=1SC=CC1)C=1SC2=C(N1)C=1C=CC=CC1C2)=O | C22H24N2O2S2
